US05237063
4-Chlorodifluoromethoxy-6-dimethylamino-2-methylaminopyrimidine
1.9 g (0.0417 mol) of gaseous dimethylamine were passed over the course of 10 minutes into a stirred mixture of 8.9 g (0.0417 mol) of 2-amino-4-chlorodifluoromethoxy-6-fluoropyrimidine and 100 ml of tetrahydrofuran at 0° C. The mixture was stirred at 0° C. for 1 hour and at 25° C. for 2 hours and worked up as usual, resulting in 9.7 g (97.5% of theory) of the title compound of melting point 127°-130° C.

reactant | dimethylamine | 0.0417 mol, 1.9 g | CNC | C2H7N
reactant | 2-amino-4-chlorodifluoromethoxy-6-fluoropyrimidine | 0.0417 mol, 8.9 g | NC1=NC(=C(C(=N1)Cl)OC(F)F)F | C5H3ClF3N3O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Chlorodifluoromethoxy-6-dimethylamino-2-methylaminopyrimidine | ClC1=NC(=NC(=C1OC(F)F)N(C)C)NC | C8H11ClF2N4O
